US07595327B2
Crude (3S,4R)-4-[benzyl-((R)-1-phenyl-ethyl)-amino]-1-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-3-methyl-piperidine-3-carboxylic acid methyl ester and triethylsilane (6 mL, 37.6 mmol) were taken up in 50 mL trifluoroacetic acid /CH2Cl2 (1:1, v/v), with vigorous gas evolution being observed. This homogeneous solution was stirred for 0.5 h at room temperature and then concentrated. The resultant oil was triturated with ether to remove excess trifluoroacetic acid. The orange oil was combined with THF (50 mL), Et3N (12 mL, 86 mmol), and di-tert-butyl-dicarbonate (7.652 g, 35.06 mmol) and stirred at room temperature overnight. Concentration of the solvent resulted in a brown oil that was purified by chromatography on silica gel eluting with 5-15% ethyl acetate/hexanes to give (3S,4R)-1-tert-butyl 3-methyl 4-(benzyl((R)-1-phenylethyl)amino)-3-methylpiperidine-1,3-dicarboxylate as a colorless solid (4.777 g, 10.24 mol). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.43-0.50 (m, 3H) 1.35 (d, J=6.82 Hz, 3H) 1.38-1.47 (m, 8H) 1.70 (s, 1H) 2.41-2.52 (m, J=12.51, 12.51, 12.38, 4.55 Hz, 1H) 2.54-2.62 (m, 1H) 3.48-3.54 (m, 3H) 3.59 (d, J=13.89 Hz, 1H) 3.82-3.88 (m, 1H) 3.90 (d, J=7.07 Hz, 1H) 7.17-7.21 (m, 3H) 7.23-7.28 (m, 4H) 7.36 (ddd, J=12.06, 7.33, 7.14 Hz, 4H).

reactant | (3S,4R)-4-[benzyl-((R)-1-phenyl-ethyl)-amino]-1-(10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-3-methyl-piperidine-3-carboxylic acid methyl ester | COC(=O)[C@]1(CN(CC[C@H]1N([C@H](C)C1=CC=CC=C1)CC1=CC=CC=C1)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2)C | C38H42N2O2
reactant | triethylsilane | 37.6 mmol, 6 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Et3N | 86 mmol, 12 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 35.06 mmol, 7.652 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | trifluoroacetic acid CH2Cl2 | 50 mL | FC(C(=O)O)(F)F.C(Cl)Cl
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3S,4R)-1-tert-butyl 3-methyl 4-(benzyl((R)-1-phenylethyl)amino)-3-methylpiperidine-1,3-dicarboxylate | 10.24 mol, 4.777 g | C(C1=CC=CC=C1)N([C@H]1[C@](CN(CC1)C(=O)OC(C)(C)C)(C(=O)OC)C)[C@H](C)C1=CC=CC=C1 | C28H38N2O4
